US09169254B2
N,N-Diisopropylethylamine (31.4 μL, 0.185 mmol) and 2-chloro-1-methylpyridinium iodide (18.9 mg, 0.074 mmol) were added to a solution of (3-methyl-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-acetic acid (30.0 mg, 0.062 mmol) in dichloromethane (0.5 mL) and DMF (0.1 mL), and the mixture was stirred for 10 minutes. A 2.0 M ammonia-methanol solution (0.15 mL, 0.308 mmol) and DMAP (0.8 mg, 0.006 mmol) were then added, and the mixture was stirred overnight. The reaction mixture was then quenched by adding a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2-(3-methyl-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-acetamide as a white powder (18.3 mg, 61%).

reactant | N,N-Diisopropylethylamine | 0.185 mmol, 31.4 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloro-1-methylpyridinium iodide | 0.074 mmol, 18.9 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | (3-methyl-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-acetic acid | 0.062 mmol, 30.0 mg | CC=1C=C(C=CC1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)CC(=O)O | C25H33N3O5S
reactant | ammonia methanol | 0.308 mmol, 2.0 M, 0.15 mL | N.CO
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.006 mmol, 0.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(3-methyl-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-acetamide | 18.3 mg, 61% | CC=1C=C(C=CC1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)CC(=O)N | C25H34N4O4S
